US04261997
From 11.2 g of 7-chloro-4-ethyl-4,9-dihydro-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid, ethyl ester, 100 ml of 1 N aqueous sodium hydroxide and 250 ml of methanol, following the procedure of Example 14, there if obtained 7-chloro-4-ethyl-4,9-dihydro-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid; mp 267°-268° C. (d), after crystallization from dimethylformamide/methanol.

reactant | 7-chloro-4-ethyl-4,9-dihydro-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid, ethyl ester | 11.2 g | ClC1=CC=2C(N3C(N(C2C=C1)CC)=CC(=N3)C(=O)OCC)=O | C15H14ClN3O3
reactant | sodium hydroxide | 1 N, 100 ml | [OH-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 7-chloro-4-ethyl-4,9-dihydro-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | ClC1=CC=2C(N3C(N(C2C=C1)CC)=CC(=N3)C(=O)O)=O | C13H10ClN3O3
